US04472400
156 g of 2-hydrazino-3-n-propylquinazolin-4(3H)-one (0.72 mole) were suspended in 500 ml of dimethylformamide and 90 g of chloroacetyl chloride (0.80 mole) were added in portions with cooling in an ice bath. When the addition was complete, the mixture was heated on a hot water bath for three hours until TLC (SiO2EtOAc) indicated no starting material or intermediate remaining. The resultant mixture was poured into one liter of water and one liter of ethyl acetate and 500 ml of dichloromethane and the organic and aqueous layers were separated. The aqueous layer was extracted twice more with 500 ml of ethyl acetate and the combined organic layers were extracted twice with 500 ml of water, dried over MgSO4, filtered and evaporated to dryness. The crystalline residue was triturated with ether, filtered, washed with ether and dried under vacuum over P2O5 to obtain 146 g (74% yield) of the 1-chloromethyl-4-n-propyl[1,2,4]triazolo[4,3-a]-quinazolin-5(4H)-one melting at (capillary) 141°-145° C.

reactant | 2-hydrazino-3-n-propylquinazolin-4(3H)-one | 0.72 mole, 156 g | N(N)C1=NC2=CC=CC=C2C(N1CCC)=O | C11H14N4O
reactant | chloroacetyl chloride | 0.80 mole, 90 g | ClCC(=O)Cl | C2H2Cl2O
reactant | water | one liter | O | H2O
reactant | ethyl acetate | one liter | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 1-chloromethyl-4-n-propyl[1,2,4]triazolo[4,3-a]-quinazolin-5(4H)-one | 146 g, 74% yield | ClCC1=NN=C2N1C1=CC=CC=C1C(N2CCC)=O | C13H13ClN4O
